US08124606B2
Compound 75: (S)-N-cyclopropyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
(S)-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (50 mg, 0.119 mmol) was taken up in DMF (0.5 mL). To the mixture was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (34.1 mg, 0.178 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (27.2 mg, 0.178 mmol), 4-methylmorpholine (0.065 mL, 0.593 mmol) and cyclopropanamine (6.77 mg, 0.119 mmol). The reaction was stirred at room temperature overnight. To the stirred solution was added water (2 mL) and the precipitate was filtered, collected, and dried in vacuum to afford the title compound (41.2 mg, 75.0%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.48 (s, 1H), 8.13 (d, J=4.0 Hz, 1H), 7.57-7.76 (m, 3H), 6.80-7.02 (m, 3H), 4.50 (d, J=13.1 Hz, 1H), 3.84 (dd, J=11.4, 2.8 Hz, 1H), 3.35 (br. s., 2H), 3.22 (br. s., 4H), 2.79 (td, J=7.3, 3.9 Hz, 1H), 2.60 (td, J=12.6, 2.7 Hz, 1H), 2.46 (br. s., 4H), 2.03 (d, J=12.9 Hz, 1H), 1.83 (br. s., 1H), 1.64 (d, J=12.9 Hz, 1H), 1.31-1.57 (m, 3H), 0.61-0.69 (m, 2H), 0.48-0.56 (m, 2H). [M+H] calc'd for C26H32N6O2, 461. found, 461.

reactant | (S)-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.119 mmol, 50 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCCC2 | C23H27N5O3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.178 mmol, 34.1 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 0.178 mmol, 27.2 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | 4-methylmorpholine | 0.593 mmol, 0.065 mL | CN1CCOCC1 | C5H11NO
reactant | cyclopropanamine | 0.119 mmol, 6.77 mg | C1(CC1)N | C3H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | (S)-N-cyclopropyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 41.2 mg, 75.0% | C1(CC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O)=O | C26H32N6O2
